US07939528B2
To a flask cooled at 0 degrees Centigrade containing diisopropylamine (2.06 mL, 14.58 mmol) in tetrahydrofuran (14 mL) was added dropwise over 15 minutes a solution of n-butyl lithium (5.55 mL of 2.5 M in hexanes, 14.58 mmol). This mixture was stirred for 30 min. A second flask containing the 2-methyl-1-indanone (2.03 g, 13.89 mmol) in tetrahydrofuran (10 mL) was cooled to −78 degrees Centigrade under N2. The freshly prepared lithium diisopropylethylamide was cooled to −78 degrees centigrade and added drop wise via cannula. The orangish mixture became somewhat heterogeneous over 30 minutes and then neat methyl cyanoformate (1.32 mL, 16.66 mmol) was added and the reaction mixture stirred an additional 40 minutes while allowing the reaction to warm to −20 degrees centigrade. The reaction was quenched with saturated aqueous NH4Cl solution and the organics extracted 2×25 mL diethyl ether, washed one time in brine, then dried (Na2SO4), filtered and concentrated to give methyl 2-methyl-1-oxo-2,3-dihydro-1H-indene-2-carboxylate. No further purification was necessary.

reactant | diisopropylamine | 14.58 mmol, 2.06 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 14.58 mmol, 2.5 M, 5.55 mL | C(CCC)[Li]
reactant | 2-methyl-1-indanone | 13.89 mmol, 2.03 g | CC1C(C2=CC=CC=C2C1)=O | C10H10O
reactant | lithium diisopropylethylamide | C(C)(C)C(C)([NH-])C(C)C.[Li+]
reactant | methyl cyanoformate | 16.66 mmol, 1.32 mL | C(#N)C(=O)OC | C3H3NO2
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl 2-methyl-1-oxo-2,3-dihydro-1H-indene-2-carboxylate | CC1(C(C2=CC=CC=C2C1)=O)C(=O)OC | C12H12O3
